US07572809B2
Similar procedure as described in example 10 was used, starting from Methanol, (1-chloro-7-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give (1-Methoxy-7-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 285(MH+).

reactant | (1-chloro-7-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=C(C=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
reactant | Methanol | CO | CH4O
product | (1-Methoxy-7-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | COC1=NC(=CC2=CC=C(C=C12)OC)NC1=NNC(=C1)C | C15H16N4O2
